US05061706
7-Cyano-1-cyclohexyloxy-6-trifluoromethyl-quinoxaline-2,3(1H,4H)-dione
To a solution of 0.3 g (1.1 mmol) 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline -2,3(1H,4H)-dione in 30 ml ethanol was added 0.7 ml triethylamine and 1.5 ml (12 mmol) cyclohexylbromide. The reaction mixture was refluxed for 7 days and then evaporated in vacuo. The residue was stirred with water to give a precipitate (0.25 g. Recrystallization (dimethylformamide-water) gave 0.17 g (44%) of 7-cyano-1-cyclohexyloxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione). M.p. 259° C. decomp. 1H-NMR (DMSO-d6): 8.0 (1H, s), 7.6 (1H, s), 4.3 (1H, m), 1.4 (8H, m).

reactant | 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline -2,3(1H,4H)-dione | 1.1 mmol, 0.3 g | C(#N)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C10H4F3N3O3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexylbromide | 12 mmol, 1.5 ml | C1(CCCCC1)Br | C6H11Br
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7-Cyano-1-cyclohexyloxy-6-trifluoromethyl-quinoxaline-2,3(1H,4H)-dione | C(#N)C1=C(C=C2NC(C(N(C2=C1)OC1CCCCC1)=O)=O)C(F)(F)F | C16H14F3N3O3
